US05686610
4-[2-(1-Piperadinyl)ethoxy]benzaldehyde
4--Hydroxybenzaldehyde (25.0 g) and 4-(2-chloroethyl)piperadine hydrochloride (60.38 g) are dissolved in DMF (650 ml) and solid potassium carbonate (45 g) is added. The reaction is refluxed for 24 hr, cooled to 20°-25° and the DMF is removed under reduced pressure. The remainder of the reaction is dissolved in chloroform and washed with 1N aqueous sodium hydroxide, saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification by flash column chromatography eluting with a gradient of 50% ethyl acetate/hexane to 5% methanol/ethyl acetate, pooling and concentrating the appropriate fractions gives the title compound, NMR (300 MHz, CDCl3) 9.75, 7.69, 6.87, 4.10, 2.73, 2.45, 1.52, 1.36 δ.

reactant | 4--Hydroxybenzaldehyde | 25.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 4-(2-chloroethyl)piperadine hydrochloride | 60.38 g | Cl.ClCCC1CCNCC1
reactant | potassium carbonate | 45 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 650 ml | CN(C)C=O | C3H7NO
product | 4-[2-(1-Piperadinyl)ethoxy]benzaldehyde | N1(CCCCC1)CCOC1=CC=C(C=O)C=C1 | C14H19NO2
